US03931177
A stirred mixture of methyl 3-[2-(2,3-epoxypropoxy)benzoyl]-propionate (8.3g, 0.031 mole), methanol (85 ml), and isopropylamine (16.4 ml, 0.19 mole) was heated under reflux for 90 minutes. Evaporation of the solution under reduced pressure gave methyl 3-[2-(2-hydroxy-3-isopropylaminopropoxy)benzoyl]propionate (10.2 g, 100%) as a pale brown oil.

reactant | methyl 3-[2-(2,3-epoxypropoxy)benzoyl]-propionate | 0.031 mole, 8.3g | O1C(COC2=C(C(=O)CCC(=O)OC)C=CC=C2)C1 | C14H16O5
reactant | isopropylamine | 0.19 mole, 16.4 ml | C(C)(C)N | C3H9N
solvent | methanol | 85 ml | CO | CH4O
product | methyl 3-[2-(2-hydroxy-3-isopropylaminopropoxy)benzoyl]propionate | 10.2 g, 100% | OC(COC1=C(C(=O)CCC(=O)OC)C=CC=C1)CNC(C)C | C17H25NO5
